US08022063B2
3-(1-Phenyl-1H-pyrazole-4-carbonyl)biphenyl-4-yloxyacetic acid.
Prepared from ethyl [4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetate and phenylboronic acid according to GP4: LC/MS (an 10p8): Rt 1.05 min, m/z 398.6 [M−H]−; 1H NMR (CDCl3): δ 4.86 (s, 2H), 7.17 (d, J=8.6 Hz, 1H), 7.35-7.57 (m, 8H), 7.70-7.75 (m, 2H), 7.78 (dd, J=8.6, 2.3 Hz, 1H), 7.84 (d, J=2.3 Hz, 1H), 8.20 (s, 1H), 8.54 (s, 1H); 13C NMR (CDCl3): δ 67.7, 115.8, 120.1, 124.8, 127.1, 128.0, 128.3, 129.1, 129.3, 129.4, 129.9, 132.3, 136.2, 139.3, 139.3, 143.5, 155.8, 170.4, 189.3.

reactant | ethyl [4-bromo-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetate | BrC1=CC(=C(OCC(=O)OCC)C=C1)C(=O)C=1C=NN(C1)C1=CC=CC=C1 | C20H17BrN2O4
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 3-(1-Phenyl-1H-pyrazole-4-carbonyl)biphenyl-4-yloxyacetic acid | C1(=CC=CC=C1)N1N=CC(=C1)C(=O)C=1C=C(C=CC1OCC(=O)O)C1=CC=CC=C1 | C24H18N2O4
